US07960569B2
In a 250 mL round bottom flask was charged 2-methyl-2-(4-nitrophenyl)propanal (2.00 g, 10.4 mmol), absolute ethanol (30 mL), ethyl amine solution (20.7 mL, 1M in THF). Titanium isopropoxide (6.2 mL, 20.7 mmol) was added and the mixture was stirred at ambient temperature for 1 h. Sodium borohydride (1.17 g, 31 mmol) was added and the reaction stirred for an additional 1 h. The reaction was quenched by pouring into 10% ammonium hydroxide solution (25 mL), ethyl acetate was added and the solids were removed by filtration, the pad was washed once with ethyl acetate and the solvent was concentrated in vacuo to give N-ethyl-2-methyl-2-(4-nitrophenyl)propan-1-amine (2.25 g, 98%). LC/MS (ESI+) 223 (M+H)+.

reactant | 2-methyl-2-(4-nitrophenyl)propanal | 10.4 mmol, 2.00 g | CC(C=O)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO3
reactant | ethyl amine | 1M, 20.7 mL | C(C)N | C2H7N
reactant | Sodium borohydride | 31 mmol, 1.17 g | [BH4-].[Na+]
catalyst | Titanium isopropoxide | 20.7 mmol, 6.2 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-ethyl-2-methyl-2-(4-nitrophenyl)propan-1-amine | 2.25 g, 98% | C(C)NCC(C)(C1=CC=C(C=C1)[N+](=O)[O-])C | C12H18N2O2
